US08138174B2
To a magnetically stirred mixture of AlCl3 (25 g, 0.19 mol) in dichloromethane, 4-chloro-butyryl chloride (21 ml, 0.19 mol) was slowly added at 0° C. The resulting mixture was stirred for 30 minutes and 5-fluoro-1H-indole (25 g, 0.19 mol) was slowly added. After stirring for another 30 minutes the formed orange mixture was poured onto concentrated hydrochloric acid (140 ml) and ice (200 ml) to give a pink precipitate. The precipitate was collected by filtration to give pink 4-chloro-1-(5-fluoro-1H-indol-3-yl)-butan-1-one (29 gram, 65% yield). 1H-NMR (400 MHz, DMSO-d6) δ 2.09 (quintet, J=7, 2H), 3.02 (t, J=7, 2H), 3.70 (t, J=7, 2H), 7.07 (dt, J˜9 and 2, 1H), 7.49 (dd, J˜9 and 4, 1H), 7.85 (dd, J˜9 and 2, 1H), 8.41 (d, J˜3, 1H), 12.21 (br s, 1H).

reactant | AlCl3 | 0.19 mol, 25 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chloro-butyryl chloride | 0.19 mol, 21 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 5-fluoro-1H-indole | 0.19 mol, 25 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | hydrochloric acid | 140 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-1-(5-fluoro-1H-indol-3-yl)-butan-1-one | 29 gram, 65% yield | ClCCCC(=O)C1=CNC2=CC=C(C=C12)F | C12H11ClFNO
